US06608095B2
N-[5-[5-[4-(2-Furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-(methylsulfonyl)benzyl]-N-methylamine hydrochloride
To a solution of 1-[3-chloromethyl-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole from step1 (70 mg, 0.15 mmol) in THF (3.0 mL), methylamine (5.0 ml, 10 mmol, 2.0 M in THF) and K2CO3 (200 mg, 1.5 mmol) was added at room temperature and stirred for 1 hour. The mixture was concentrated and ethyl acetate (30 mL) was added, dried over MgSO4, and concentarted in vacuo. The solid was dissolved in 10% methanolic HCl (10 mL), and volatiles were removed by evaporation. The residual solid was recrystallized from ethanol to give the title compound (45 mg, 59%).

reactant | 1-[3-chloromethyl-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole | ClCC=1C=C(C=CC1S(=O)(=O)C)N1N=C(C=C1C1=CC=C(C=C1)C=1OC=CC1)C(F)(F)F | C22H16ClF3N2O3S
reactant | methylamine | 10 mmol, 2.0 M, 5.0 ml | CN | CH5N
reactant | K2CO3 | 1.5 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | N-[5-[5-[4-(2-Furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-(methylsulfonyl)benzyl]-N-methylamine hydrochloride | 45 mg, 59% | Cl.O1C(=CC=C1)C1=CC=C(C=C1)C1=CC(=NN1C=1C=CC(=C(CNC)C1)S(=O)(=O)C)C(F)(F)F | InChI=1S/C23H20F3N3O3S.ClH/c1-27-14-17-12-18(9-10-21(17)33(2,30)31)29-19(13-22(28-29)23(24,25)26)15-5-7-16(8-6-15)20-4-3-11-32-20;/h3-13,27H,14H2,1-2H3;1H
